US05728835
4-Cyano-N-(2-methoxyphenyl)benzamide
In an atmosphere of dry air, 4-cyanobenzoic acid (1.5 g, 10 mmol) was dissolved in benzene (5 ml), and DMF (0.1 ml) and thionyl chloride (2.2 ml, 30 mmol) were added dropwise to the resulting solution at room temperature, followed by 30 minutes of heating under reflux. After removing the solvent by evaporation, the resulting residue was subjected to azeotropy using benzene (10 ml×2) to obtain a yellow solid which was subsequently dissolved in methylene chloride (10 ml) and mixed with o-anisidine (1.16 ml, 10 mmol) and 20% sodium hydroxide aqueous solution (4 ml) with cooling in an ice bath. After 20 minutes of stirring at the same temperature, the resulting mixture was extracted with methylene chloride and then washed with 1N hydrochloric acid, water and saturated brine in that order. After drying on anhydrous magnesium sulfate, the solvent was removed by evaporation, and the resulting light yellow solid was purified by recrystallization (methylene chloride-ether) to obtain 2.36 g (93.6%) of the title compound in the form of creamy-colored crystals.

reactant | 4-cyanobenzoic acid | 10 mmol, 1.5 g | C(#N)C1=CC=C(C(=O)O)C=C1 | C8H5NO2
reactant | thionyl chloride | 30 mmol, 2.2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | o-anisidine | 10 mmol, 1.16 ml | COC=1C(=CC=CC1)N | C7H9NO
reactant | sodium hydroxide | 4 ml | [OH-].[Na+]
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.1 ml | CN(C)C=O | C3H7NO
product | 4-Cyano-N-(2-methoxyphenyl)benzamide | 2.36 g, 93.6% | C(#N)C1=CC=C(C(=O)NC2=C(C=CC=C2)OC)C=C1 | C15H12N2O2
